US04968702
5-[1,1'-Biphenyl]-4-yl-9-fluoro-3-methyl-1H-[1,3]oxazino[4,5-c]quinolin-1-one
To a suspension of 4 g of 3-amino-2-[1,1'-biphenyl]-4-yl-6-fluoro-4-quinolinecarboxylic acid in 30 ml of acetic anhydride was added 10 drops of concentrated sulfuric acid. The mixture was heated at 90° C. for 2 hours, then cooled and poured into 200 ml of water. This solution was stirred at 20° C. for 30 minutes, then the resulting solid was collected and washed with water. The residue was dissolved in 150 ml of dichloromethane and washed with 100 ml of saturated aqueous sodium bicarbonate. The organic layer was separated, dried and the volatiles removed in vacuo. The residue was dissolved in a small amount of dichloromethane and passed through a short pad of hydrous magnesium silicate, eluting with dichloromethane:hexane 1:1). The solids which were obtained were recrystallized from dichloromethane/hexane, giving 4.1 g of the desired intermediate as yellow crystals, mp 188°-189° C.

reactant | 3-amino-2-[1,1'-biphenyl]-4-yl-6-fluoro-4-quinolinecarboxylic acid | 4 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)F)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H15FN2O2
reactant | water | 200 ml | O | H2O
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | 5-[1,1'-Biphenyl]-4-yl-9-fluoro-3-methyl-1H-[1,3]oxazino[4,5-c]quinolin-1-one | 4.1 g | C1(=CC=C(C=C1)C1=NC=2C=CC(=CC2C2=C1N=C(OC2=O)C)F)C2=CC=CC=C2 | C24H15FN2O2
